US06333336B1
2-(4-Chlorophenyl)-2,5-dihydro-7-propylpyrazolo[4,3-c]pyridin-3-one hydrochloride
A mixture of ethyl 4-chloro-3-propyl-5-pyridinecarboxylate (0.3199 g, 1.40 mmol) and 4-chlorophenylhydrazine hydrochloride (0.3019 g, 1.69 mmol) in anhydrous 1-butanol (12 ml) was degassed by evaporating the flask under vacuum and refilling with nitrogen several times and then stirred at reflux under nitrogen for 4 h. After leaving to cool overnight, the mixture was filtered, and the solid was washed with ethyl acetate and dried at 60° C. under vacuum to afford 0.2454 g (54%) of the title compound as a yellow solid; mp 213-218° C. (CH2Cl2-MeOH-EtOAc); 1H NMR (360 MHz, DMSO-d6) δ0.94 (3H, t, J 7.4 Hz), 1.76 (2H, m), 2.64 (2H, t, J 7.3 Hz), 7.41 (1H, s), 7.48 (2H, d, J 9.0 Hz), 8.24 (2H, d, J 8.9 Hz), 8.52 (1H, s), 12.36 (1H, br s); MS (ES+) m/z 288/290 [MH]+. Anal. found: C, 56.13; H, 4.64; N, 13.02. C15H14CIN3O.0.9HCl requires: C, 56.20; H, 4.69; N, 13.11%.

reactant | ethyl 4-chloro-3-propyl-5-pyridinecarboxylate | 1.40 mmol, 0.3199 g | ClC1=C(C=NC=C1C(=O)OCC)CCC | C11H14ClNO2
reactant | 4-chlorophenylhydrazine hydrochloride | 1.69 mmol, 0.3019 g | Cl.ClC1=CC=C(C=C1)NN
solvent | 1-butanol | 12 ml | C(CCC)O | C4H10O
product | 2-(4-Chlorophenyl)-2,5-dihydro-7-propylpyrazolo[4,3-c]pyridin-3-one hydrochloride | 0.2454 g, 54% | Cl.ClC1=CC=C(C=C1)N1N=C2C(=CNC=C2CCC)C1=O | InChI=1S/C15H14ClN3O.ClH/c1-2-3-10-8-17-9-13-14(10)18-19(15(13)20)12-6-4-11(16)5-7-12;/h4-9,17H,2-3H2,1H3;1H
